US07396847B2
5-Azidomethyl-3-(4-bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazole
Methanesulfonic acid 3-(4-bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazol-5-ylmethyl ester (38.6 g, 111.9 mmol) was added to dimethyl formamide (100 ml) followed by addition of sodium azide (14.5 g, 223.8 mmol). The mixture was heated to 75° C. for five hours and then added to aqueous sodium chloride (200 ml) followed by extraction with ethyl acetate (3×200 ml). The organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to yield the desired product (31 g).

reactant | Methanesulfonic acid 3-(4-bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazol-5-ylmethyl ester | 111.9 mmol, 38.6 g | BrC1=C(C=C(C=C1)C1=NOC(C1)COS(=O)(=O)C)F | C11H11BrFNO4S
reactant | sodium azide | 223.8 mmol, 14.5 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-Azidomethyl-3-(4-bromo-3-fluoro-phenyl)-4,5-dihydro-isoxazole | 31 g | N(=[N+]=[N-])CC1CC(=NO1)C1=CC(=C(C=C1)Br)F | C10H8BrFN4O
